US04626535
Z-1-(5-amino-1,2,4-thiadiazol-3-yl)propene-1-carboxylic acid
340 mg (1.2 mMol) of Z-1-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)propene-1-carboxylic acid were dissolved in 4 ml of trifluoroacetic acid at 0° C. and stirred at 0° C. for 2 hours. The trifluoroacetic acid was now removed in vacuo, and the residue was dissolved 2×in CH2Cl2 which was again removed in vacuo each time. The residue was dissolved in 5 ml of water, the pH was adjusted to 4 with 1N NaOH, and the mixture was extracted 3×20 ml of ethyl acetate, which was discarded. The evaporated aqueous phase was filtered through 25 g of silica gel using CHCl3 /CH3OH (3:1) and the solvent was evaporated.

reactant | Z-1-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)propene-1-carboxylic acid | 1.2 mMol, 340 mg | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(=C/C)/C(=O)O | C11H15N3O4S
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Z-1-(5-amino-1,2,4-thiadiazol-3-yl)propene-1-carboxylic acid | NC1=NC(=NS1)/C(=C/C)/C(=O)O | C6H7N3O2S
